US07253286B2
N-[4-(2-Aminopyridin-4-yl)oxyphenyl]-N′-(4-fluorophenyl)urea
After dissolving 0.53 g of 2-amino-4-(4-aminophenoxy)pyridine in a mixture of 20 ml of tetrahydrofuran and 10 ml of dimethylformamide, 0.36 ml of p-fluorophenyl isocyanate was added and the mixture was stirred for 1 hour. NH type silica gel was added to the reaction solution, the solvent was distilled off under reduced pressure and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with NH type silica gel, and column purification was performed (chloroform:methanol=20:1, followed by 10:1). The solvent was distilled off under reduced pressure to obtain 610 mg of the target substance as a white powder.

reactant | 2-amino-4-(4-aminophenoxy)pyridine | 0.53 g | NC1=NC=CC(=C1)OC1=CC=C(C=C1)N | C11H11N3O
reactant | p-fluorophenyl isocyanate | 0.36 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[4-(2-Aminopyridin-4-yl)oxyphenyl]-N′-(4-fluorophenyl)urea | NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C18H15FN4O2
